US06315978B1
To a stirred solution of salicylaldehyde (12.21 g/10.62 mL) in 70° C. ethanol (100 mL) was added ethylenediamine (3.01 g/3.33 mL). A yellow crystalline material immediately formed, and the reaction mixture was allowed to cool to room temperature with stirring. The solution was filtered, and the crystals were washed with cold ethanol. The ethanol layers were combined and reduced to approximately 20 mL and allowed to stand at 0° C. overnight. The resulting crystals were collected by vacuum filtration and washed with water. The collected solids were dried in vacuo to obtain 13.15 g (98%) N,N′-bis(salicylidene)ethylenediamine as yellow platelets with a melting point of 126° C. (literature value (24) 127-128° C.). 1H NMR (DMSO-d6) δ8.57 (s 2H, HC═N), 7.42 (d, 2H aromatic, J=7.3 Hz), 7.31 (t, 2H, aromatic, J=9.0 Hz), 6.88 (t, 4H, aromatic, J=8.3, 16.1 Hz), 3.89 (s, 4H, CH2). 13C NMR (DMSO-d6) δ166.94 (2C, CO), 160.57 (2C, HC+N), 132.38 (2C, aromatic), 131.69 (4C, aromatic), 118.59 (2C, aromatic), 116.51 (2C, aromatic), 58.88 (2C, CH2).

reactant | salicylaldehyde | 10.62 mL, 12.21 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | ethylenediamine | 3.33 mL, 3.01 g | C(CN)N | C2H8N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N,N′-bis(salicylidene)ethylenediamine | 13.15 g, 98% | C(C=1C(O)=CC=CC1)=NCCN=CC=1C(O)=CC=CC1 | C16H16N2O2
